US07319101B2
a) 4-Isopropenyl-2-methoxy-1-methoxymethoxy-benzene
A suspension of methyltriphenylphosphonium bromide (1.1 g, 3.09 mmol, 1.3 eq.) in 5 mL dry THF cooled to −80° C. was slowly treated with BuLi (1.94 mL of a 1.6 m solution in hexane, 1.3 eq.). To this yellow suspension a solution of 1-(3-methoxy-4-methoxymethoxy-phenyl)-ethanone (500 mg, 2.38 mmol, 1 eq.) in 5 mL dry THF was added and the reaction mixture was allowed to warm to r.t. where stirring was continued for 12 h. The suspension was filtered and the solvent was evaporated in vacuo. The crude product was purified using flash chromatography (silica gel, hexane/EtOAc 6:1) to yield the desired product as a color-less oil.

reactant | BuLi | [Li]CCCC
reactant | 1-(3-methoxy-4-methoxymethoxy-phenyl)-ethanone | 2.38 mmol, 500 mg, 1 eq. | COC=1C=C(C=CC1OCOC)C(C)=O | C11H14O4
catalyst | methyltriphenylphosphonium bromide | 3.09 mmol, 1.1 g, 1.3 eq. | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-Isopropenyl-2-methoxy-1-methoxymethoxy-benzene | C(=C)(C)C1=CC(=C(C=C1)OCOC)OC | C12H16O3
